US06492385B2
Step 159a: Preparation of Methyl 5-Phenyl-thiophene-2-carbodithioate.
To a cooled (−10 to 0° C.) solution of n-BuLi (22.7 mL, 33.4 mmol) in THF (10 mL) is added dropwise a solution of 2-phenyl-thiophene (5.46 g, 34.0 mmol) in THF (15 mL). The resulting green solution is stirred at 0° C. After 30 minutes, a solution of copper (I) bromide (0.87 g, 6.1 mmol) and lithium bromide (1.29 g, 14.9 mmol) in TBF (20 mL) is added to the cooled reaction solution over several minutes. The resulting dark green solution is stirred at 0° C. for 15 minutes, at Which time, carbon disulfide (2.0 mL, 34.0 mmol) is added dropwise over 15 minutes. The resulting dark brown solution is stiffed for 30 minutes, then iodomethane (2.9 mL, 46.4 mmol) is added dropwise to the reaction solution over 5 minutes. The resulting dark brown solution is allowed to warm to room temperature and stirred for 1 hour, then is quenched with a solution of potassium cyanide in water (100 mL). The biphasic mixture was diluted with EtOAc and washed with brine, dried over MgSO4, filtered, and concentrated to give a dark orange solid (8.5 grams) which is purified with flash chromatography on silica gel (eluent: gradient of heptane to 2% THF/heptane) to give an orange solid. Yield 34%. HRMS (FAB) calculated for C12H10S3+H 251.0023, found 251.0023.

reactant | n-BuLi | 33.4 mmol, 22.7 mL | [Li]CCCC
reactant | 2-phenyl-thiophene | 34.0 mmol, 5.46 g | C1(=CC=CC=C1)C=1SC=CC1 | C10H8S
reactant | lithium bromide | 14.9 mmol, 1.29 g | [Br-].[Li+]
reactant | carbon disulfide | 34.0 mmol, 2.0 mL | C(=S)=S | CS2
reactant | iodomethane | 46.4 mmol, 2.9 mL | IC | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | copper (I) bromide | 6.1 mmol, 0.87 g | [Cu]Br
product | Methyl 5-Phenyl-thiophene-2-carbodithioate | 8.5 grams, Yield 34% | C1(=CC=CC=C1)C1=CC=C(S1)C(=S)SC | C12H10S3
